US07888366B2
(Ref: J. Org. Chem. 1955; 20; 813-818) A solution of 2-chloro-1-(5-chloro-2-hydroxy-phenyl)-ethanone (5 g; 24.4 mmol) in ethanol was heated to reflux for 10 minutes and sodium acetate (2 g; 24.4 mmol) was added to the hot mixture. Mixture continued to reflux an additional 10 minutes, and reaction was stoppered and chilled to 0° C. for 20 minutes. Mixture was quenched with water and mixture extracted with ethyl acetate (3×75 mL). Combined organics was washed with brine and dried over MgSO4. Crude material was purfied by chromatography using 0-1% methanol/DCM to afford 5-chlorobenzofuran-3-one as a oily solid. (3.0 g; 75% yield).

reactant | 2-chloro-1-(5-chloro-2-hydroxy-phenyl)-ethanone | 24.4 mmol, 5 g | ClCC(=O)C1=C(C=CC(=C1)Cl)O | C8H6Cl2O2
reactant | sodium acetate | 24.4 mmol, 2 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-chlorobenzofuran-3-one | 75% yield | ClC=1C=CC2=C(C(CO2)=O)C1 | C8H5ClO2
